US08008303B2
(4′-{4-[4-(propane-1-sulfonyl)-piperazin-1-ylmethyl]-phenylcarbamoyl}-6-trifluoromethoxy-biphenyl-3-yl)-carbamic acid tert-butyl ester.
A mixture of 5′-tert-butoxycarbonylamino-2′-trifluoromethoxy-biphenyl-4-carboxylic acid (300 mg), 4-[4-(propane-1-sulfonyl)-piperazin-1-ylmethyl]-phenylamine (224 mg), EDAC (144 mg), HOBT (102 mg) and N-Methylmorpholine (166 ul) in dry DMF (3 ml) was stirred for 16 hrs.

reactant | 5′-tert-butoxycarbonylamino-2′-trifluoromethoxy-biphenyl-4-carboxylic acid | 300 mg | C(C)(C)(C)OC(=O)NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)O)OC(F)(F)F | C19H18F3NO5
reactant | 4-[4-(propane-1-sulfonyl)-piperazin-1-ylmethyl]-phenylamine | 224 mg | C(CC)S(=O)(=O)N1CCN(CC1)CC1=CC=C(C=C1)N | C14H23N3O2S
reactant | EDAC | 144 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 102 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-Methylmorpholine | 166 ul | CN1CCOCC1 | C5H11NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | (4′-{4-[4-(propane-1-sulfonyl)-piperazin-1-ylmethyl]-phenylcarbamoyl}-6-trifluoromethoxy-biphenyl-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C=C(C(=CC1)OC(F)(F)F)C1=CC=C(C=C1)C(NC1=CC=C(C=C1)CN1CCN(CC1)S(=O)(=O)CCC)=O)=O | C33H39F3N4O6S
